### PR TITLE
feat: finish Inf-Res

### PR DESCRIPTION
**Pull request by Whysoserioushah**

### CODE REVIEW

File: ClassFieldTheory/Cohomology/Functors/InflationRestriction.lean [hunk 1]
```diff
@@ -12,9 +14,10 @@ open
   CategoryTheory
   Limits
 
-variable {R : Type} [CommRing R]
-variable {G : Type} [Group G]
-variable {Q : Type} [Group Q] {φ : G →* Q} (surj : Function.Surjective φ)
+universe u
+
+variable {R G Q : Type u} [CommRing R] [Group G] [Group Q] {φ : G →* Q}
```
Comment (rmhi) [inline ClassFieldTheory/Cohomology/Functors/InflationRestriction.lean:19]: Is it a good idea to put all of these in the same universe? Usually `R` will be `Int`.

File: ClassFieldTheory/Cohomology/Functors/InflationRestriction.lean [hunk 2]
```diff
@@ -29,22 +32,77 @@ lemma quotientToInvariantsFunctor'_shortExact_ofShortExact {S : ShortComplex (Re
     (S.map (quotientToInvariantsFunctor' surj)).ShortExact := by
   /-
   This is the opening section of the long exact sequence. The next term is `H¹(K,S.X₁)`, which
-  is assumeed to be zero.
+  is assumed to be zero.
```
Comment (rmhi) [inline ClassFieldTheory/Cohomology/Functors/InflationRestriction.lean:35]: I think this comment really belongs in the docstring for the lemma, rather than the proof. I probably put it there originally as a hint for the proof.

File: ClassFieldTheory/Cohomology/Functors/InflationRestriction.lean [hunk 3]
```diff
@@ -29,22 +32,77 @@ lemma quotientToInvariantsFunctor'_shortExact_ofShortExact {S : ShortComplex (Re
...
+  -- the invariants complex is isomorphic to the `H⁰` complex of the restriction to `K`
+  have isoInv : mapShortComplex₂ (S.map (resFunctor φ.ker.subtype)) 0 ≅
+      (S.map (resFunctor φ.ker.subtype)).map (invariantsFunctor R φ.ker) :=
+    ShortComplex.isoMk (H0Iso _) (H0Iso _) (H0Iso _)
+      (map_id_comp_H0Iso_hom _).symm (map_id_comp_H0Iso_hom _).symm
+  -- `H⁰(K,X₂) ⟶ H⁰(K,X₃)` is epi since the next term `H¹(K,X₁)` vanishes
+  have hEpiH0 : Epi (mapShortComplex₂ (S.map (resFunctor φ.ker.subtype)) 0).g :=
+    (mapShortComplex₃_exact hT (i := 0) rfl).epi_f (hS'.eq_zero_of_tgt _)
+  have hf : Function.Injective S.f.hom := (Rep.mono_iff_injective S.f).1 hS.mono_f
+  refine { exact := ?_, mono_f := ?_, epi_g := ?_ }
```
Comment (rmhi) [inline ClassFieldTheory/Cohomology/Functors/InflationRestriction.lean:47]: I slightly prefer `apply ShortComplex.ShortExact.mk'` for this line.

More significantly I think Mathlib is missing a lemma `ShortComplex.shortExact_map_iff_of_faithful`, but I guess that's a matter for Mathlib rather than CFT.

File: ClassFieldTheory/Cohomology/Functors/InflationRestriction.lean [hunk 4]
```diff
@@ -29,22 +32,77 @@ lemma quotientToInvariantsFunctor'_shortExact_ofShortExact {S : ShortComplex (Re
...
+  · rw [← ShortComplex.exact_map_iff_of_faithful _ (forget₂ (Rep R Q) (ModuleCat R))]
+    exact ShortComplex.exact_of_iso isoInv (mapShortComplex₂_exact hT 0)
+  · rw [Rep.mono_iff_injective]
+    intro a b hab
+    exact Subtype.ext (hf (congrArg Subtype.val hab))
+  · rw [Rep.epi_iff_surjective]
+    exact (ModuleCat.epi_iff_surjective _).1 (ShortComplex.epi_g_of_iso isoInv hEpiH0)
+
+abbrev inflationRestriction (n : ℕ) (M : Rep R G) : ShortComplex (ModuleCat R) where
   X₁ := groupCohomology (M ↑ surj) (n + 1)
```
Comment (rmhi) [inline ClassFieldTheory/Cohomology/Functors/InflationRestriction.lean:57]: This is not a comment on your PR, but the notation `M ↑ surj` has been changed without its docstring being updated, so the docstring is now slightly confusing.

File: ClassFieldTheory/Cohomology/Functors/InflationRestriction.lean [hunk 5]
```diff
@@ -29,22 +32,77 @@ lemma quotientToInvariantsFunctor'_shortExact_ofShortExact {S : ShortComplex (Re
...
+      have : map _ _ _ ≫ map _ (𝟙 (M ↓ φ.ker.subtype)) _ = 0 :=
+        (groupCohomology.H1InfRes M φ.ker).zero
+      simp only [Nat.reduceAdd, infl, cochain_infl, Functor.hcomp_id, Functor.whiskerRight_app,
+        Functor.comp_obj, rest_app]
+      change map _ _ 1 ≫ _ = 0
+      apply_fun ((resEquiv_inv 1 Q (M.quotientToInvariants φ.ker)
+        (QuotientGroup.quotientKerEquivOfSurjective φ surj)).hom ≫ ·) at this
+      rwa [comp_zero, resEquiv_inv_hom, ← Category.assoc, ← map_comp] at this
+    | succ n ih =>
+      dsimp [infl, rest, ← map.eq_def, cochain_infl]
```
Comment (rmhi) [inline ClassFieldTheory/Cohomology/Functors/InflationRestriction.lean:74]: do lines 74-75 actually speed up the proof, or can they be removed?

File: ClassFieldTheory/Cohomology/Functors/InflationRestriction.lean [hunk 6]
```diff
@@ -29,22 +32,77 @@ lemma quotientToInvariantsFunctor'_shortExact_ofShortExact {S : ShortComplex (Re
...
+      simp only [Functor.hcomp_id, Functor.whiskerRight_app, Functor.comp_obj]
+      change map _ _ _ ≫ map _ _ (n + 1 + 1) = 0
+      rw [← map_comp, groupCohomology.map_one']
+      ext ⟨x, hx⟩
+      simp [MonoidHom.mem_ker.1 hx]
```
Comment (rmhi) [inline ClassFieldTheory/Cohomology/Functors/InflationRestriction.lean:79]: is `simpa` better here?

File: ClassFieldTheory/Cohomology/Functors/InflationRestriction.lean (hunk 5 above)
Comment (Whysoserioushah) [reply ClassFieldTheory/Cohomology/Functors/InflationRestriction.lean:74]: I think this is again `simp` acting weird because of the transparency reasons, note that there are no `set_option`s here
